US05792769
a) 1-Naphthalenesulfonic acid 3-benzyloxy-5-methylphenyl ester
A solution of 3-benzyloxy-5-methylphenol (600 mg, 3.0 mmol), as prepared in step a of Example 3, in methylene chloride (15 mL) at 0° C. was treated with N,N-diisopropylethylamine (0.5 mL) and 1-naphthalenesulfonyl chloride (670 mg, 3.0 mmol). The reaction mixture was stirred at 0° C. for 2 h and at room temperature for 2 h. The reaction mixture was diluted with methylene chloride (200 mL) and water (50 mL). The organic extract was washed sequentially with saturated NaHCO3 (2×50 mL) and brine (2×50 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography (1:1 hexane:methylene chloride) to give the title compound as a colorless liquid (1.05 g, 87%). 1H-NMR (300 MHz, CDCl3) δ 2.16 (s, 3H), 4.73 (s, 2H), 6.23 (t, 1H), 6.37 (dd, 1H), 6.61 (dd, 1H), 7.28 (m, 5H), 7.48 (t, 1H), 7.67 (t, 1H), 7.77 (t, 1H), 7.97 (t, 1H), 8.12 (dt, 2H), 8.19 (dd, 1H).

reactant | 3-benzyloxy-5-methylphenol | 3.0 mmol, 600 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)O | C14H14O2
reactant | N,N-diisopropylethylamine | 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-naphthalenesulfonyl chloride | 3.0 mmol, 670 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 1-Naphthalenesulfonic acid 3-benzyloxy-5-methylphenyl ester | 1.05 g, 87% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C24H20O4S
